US07186724B2
1-Allyl-cyclopropanecarboxylic acid tert-butyl ester.
Lithium diisopropyl amide was generated from 7.5 g (58.1 mmol) diisopropyl amine and 23.2 mL of 2.5 M n-butyl lithium in 200 mL THF at 0° C. under nitrogen. After stirring for 30 minutes at 0° C. the solution was taken to −78° C. where 7.5 g (52.8 mmol) of cyclopropanecarboxylic acid tert-butyl ester in 30 mL of THF was added dropwise over 5 min. After 4 h 12.8 g (106 mmol) of allyl bromide in 30 mL THF was added drop-wise over 10 min. to the clear golden solution. The reaction was allowed to slowly warm to room temperature. After 19 hours the reaction was poured into aqueous saturated ammonium chloride solution, extracted with ether, dried and concentrated to deliver an oil which was purified via Kugelrohr distillation (approx. 20 mm Hg; 60–75° C. oven) to deliver 5.4 g (56%) of the desired product as a clear colorless oil.

reactant | Lithium diisopropyl amide | C(C)(C)[N-]C(C)C.[Li+]
reactant | diisopropyl amine | 58.1 mmol, 7.5 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 2.5 M, 23.2 mL | C(CCC)[Li]
reactant | cyclopropanecarboxylic acid tert-butyl ester | 52.8 mmol, 7.5 g | C(C)(C)(C)OC(=O)C1CC1 | C8H14O2
reactant | allyl bromide | 106 mmol, 12.8 g | C(C=C)Br | C3H5Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 1-Allyl-cyclopropanecarboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C1(CC1)CC=C | C11H18O2
